US08026257B2
tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
Prepared according to the procedure used to prepare tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate using tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate as the starting material. 1H-NMR (CDCl3, 500 MHz) δ 10.20 (bs, 1H), 7.93 (s, 1H), 7.62 (d, J=1.5 Hz, 1H), 7.25 (dd, J=8.5 Hz, 5.2, 2H), 7.06 (dd, J=8.6, 8.5 Hz, 2H), 7.02 (d, J=1.8 Hz, 1H), 4.46 (dd, J=7.0, 4.3 Hz, 1H), 3.76 (dd, J=11.9, 7.3 Hz, 1H), 3.67 (dd, J=11.9, 4.3 Hz, 1H), 3.40 (m, 2H), 3.00 (m, 2H), 2.23 (m, 1H), 2.10 (m, 1H), 1.84 (m, 1H), 1.75 (m, 1H), 1.42 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 171.2, 161.7 (d, J=247 Hz), 155.0, 137.8, 136.4, 133.9, 128.7 (d, J=7.7 Hz), 126.3, 125.6, 124.9, 122.6, 119.9, 115.8 (d, J=21 Hz), 83.0, 79.7, 79.4, 65.7, 41.4, 39.9 (br), 32.5, 32.2, 28.5.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O5Si
product | tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C26H31ClFN3O4
